US06416746B1
a) 4-(1,3,3,3-Tetramethyl-1-[(trimethyl silyl)-oxy]-disiloxanyl)-butanol
The reaction of Example 2a was repeated using 1,1,1,3,5,5,5-heptamethyl trisiloxane instead of 1,1,3,3,3-pentamethyl disiloxane and 3-butenol instead of allylalcohol. After distillation at 78° C./0.1×102 Pa, 83% of a clear liquid product was obtained.

reactant | 1,1,1,3,5,5,5-heptamethyl trisiloxane | C[Si](O[SiH](O[Si](C)(C)C)C)(C)C | C7H22O2Si3
reactant | 3-butenol | C(CC=C)O | C4H8O
product | 4-(1,3,3,3-Tetramethyl-1-[(trimethyl silyl)-oxy]-disiloxanyl)-butanol | 83% | C[Si](O[Si](C)(C)C)(O[Si](C)(C)C)CCCCO | C11H30O3Si3
